US07507760B2
(R)-2-[(1-Benzyl-pyrrolidin-3-yl)methyl-amino]-N,N-diphenyl-acetamide
To a solution of (R)-(1-benzoyl-pyrrolidin-3-yl)-methyl-amine(0.32 g, 1.68 mmol) in dry CH3CN (10 ml) was added 2-bromo-N,N-diphenyl acetamide(0.49 g, 1.68 mmol) and NaHCO3 (0.28 g, 3.36 mmol) under nitrogen. The reaction mixture was refluxed overnight. After cooling, the solvent was evaporated. The residue was taken up with water (5 ml) and extracted with CHCl3 (3×25 ml). The organic was dried over MgSO4 and evaporated to dryness. The resulting residue was purified by column chromatography using CH2Cl2:CH3OH (15:1) to give 680 mg of desired product.

reactant | (R)-(1-benzoyl-pyrrolidin-3-yl)-methyl-amine | 1.68 mmol, 0.32 g | C(C1=CC=CC=C1)(=O)N1C[C@@H](CC1)NC | C12H16N2O
reactant | 2-bromo-N,N-diphenyl acetamide | 1.68 mmol, 0.49 g | BrCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C14H12BrNO
reactant | NaHCO3 | 3.36 mmol, 0.28 g | C(=O)(O)[O-].[Na+]
reactant | CH3CN | 10 ml | CC#N | C2H3N
product | (R)-2-[(1-Benzyl-pyrrolidin-3-yl)methyl-amino]-N,N-diphenyl-acetamide | 680 mg | C(C1=CC=CC=C1)N1C[C@H](CC1)CNCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C26H29N3O
